US04616084
EXAMPLE 36 tert.-Butyl 4-[3(R)-benzoylamino-2-azetidinon-4(R)-yloxy]-2-diazo-3-oxo-butanoate
90 μl of boron trifluoride etherate were added to a suspension of 564 mg (3.0 mmol) (1R,5S)-3-phenyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one and 1.08 g (5.4 mmol-1.8 equiv.) tert.-butyl 2-diazo-4-hydroxy-3-oxo-butanoate in 12 ml of anhydrous tetrahydrofuran at 0° C. The cooling bath was removed and after 10 minutes a clear, light yellow solution formed. After 20 minutes it was poured into a mixture of NaHCO3 solution, ice and methylene chloride. The mixture was extracted with methylene chloride (3×), washed with water and dried over magnesium sulphate. After the solvent had been evaporated off in vacuo and the residue had been crystalized from methylene chloride-ether-pentane, 861 mg (74%) of the title compound were obtained as light yellow crystals, melting point: 98° C., RF : 0.29 (toluene:ethyl acetate 2:3). Spectroscopical data identical to Example 4.

reactant | boron trifluoride etherate | 90 μl | B(F)(F)F.CCOCC
reactant | (1R,5S)-3-phenyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one | 3.0 mmol, 564 mg | C1(=CC=CC=C1)C1=N[C@H]2C(N[C@H]2O1)=O | C10H8N2O2
reactant | tert.-butyl 2-diazo-4-hydroxy-3-oxo-butanoate | 1.08 g | [N+](=[N-])=C(C(=O)OC(C)(C)C)C(CO)=O | C8H12N2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert.-Butyl 4-[3(R)-benzoylamino-2-azetidinon-4(R)-yloxy]-2-diazo-3-oxo-butanoate | 861 mg, 74% | C(C1=CC=CC=C1)(=O)N[C@H]1C(N[C@@H]1OCC(C(C(=O)OC(C)(C)C)=[N+]=[N-])=O)=O | C18H20N4O6
